US04413076
Bis[2-hydroxy-3-(7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propyl]adipate
To 60 ml of xylene were added 10.0 g of 8-(2,3-epoxypropyl)-7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]decane and 2.4 g of adipic acid and the mixture was refluxed for 16 hours, under stirring. After completion of the reaction, the residue obtained by removing xylene from the reaction mixture under a reduced pressure was purified by column chromatography on silica gel (eluent: benzene:ethyl acetate=1:1), giving the desired compound as pale yellow, viscous product. The compound showed Rf value of 0.53 on a thin-layer chromatography on silica gel when developed with ethyl acetate.

reactant | 8-(2,3-epoxypropyl)-7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]decane | 10.0 g | O1C(CN2C(CC3(OCCO3)CC2(C)C)(C)C)C1 | C14H25NO3
reactant | adipic acid | 2.4 g | C(CCCCC(=O)O)(=O)O | C6H10O4
solvent | xylene | 60 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Bis[2-hydroxy-3-(7,7,9,9-tetramethyl-1,4-dioxa-8-azaspiro[4.5]dec-8-yl)propyl]adipate | OC(COC(CCCCC(=O)OCC(CN1C(CC2(OCCO2)CC1(C)C)(C)C)O)=O)CN1C(CC2(OCCO2)CC1(C)C)(C)C | C34H60N2O10
